US06297260B1
12a. Ethyl 4-(methoxymethylene)piperidinecarboxylate
A 1M solution of sodium hexamethyldisilazane (NaHMDS, 350 mL, 0.35 mol) in THF was added slowly to a suspension of (methoxymethyl)triphenyl phosphonium chloride (120 g, 0.35 mol,) in THF (100 mL) at −78° C. under N2. The resulting brown solution was stirred at −78° C. for 20 minutes and then 1-carbethoxy-4-piperidone (50 g, 0.292 mol) in THF (50 mL) was added dropwise. The mixture was stirred at −78° C. for 5 minutes and then for 2 hours at room temperature. Water (200 mL) was added and the layers were separated. The aqueous layer was extracted with EtOAc and the combined organic extracts were dried over Na2SO4. The solvent was evaporated to give an orange solid which was suspended in Et2O (200 mL). The solid was removed by filtration and the filtrate was concentrated to give a yellow oil which was triturated with hexane (200 mL). The white solid which precipitated was removed by filtration. The filtrate was concentrated in vacuo and this was procedure repeated twice more to give the title compound (52 g, 89%) as a pale yellow oil. TLC Rf=0.72 (EtOAc:hexane, 1:2); 1H NMR (CDCl3) δ 5.84 (s, 1H), 4.11 (q, J=7 Hz, 2H), 3.54 (s, 3H), 3.37-3.42 (mult, 4H), 2.24 (t, J=5.6 Hz, 2H), 1.99 (t, J=5.6 Hz, 2H), 1.24 (t, J=7 Hz, 3H); 13C NMR (CDCl3) δ 1.55, 140.8, 113.4, 61.3, 59.5, 45.8, 44.6, 29.6, 25.2, 14.8; mass spectrum (API-TIS) m/z 200 (M+H). Anal Calcd for C10H17N1O3: C, 60.28; H, 8.60; 7.03. Found: C, 60.29; H, 8.63; N, 6.81.

reactant | sodium hexamethyldisilazane | 0.35 mol, 350 mL | C[Si](N[Si](C)(C)C)(C)C.[Na]
reactant | (methoxymethyl)triphenyl phosphonium chloride | 0.35 mol, 120 g | [Cl-].COC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | 1-carbethoxy-4-piperidone | 0.292 mol, 50 g | C(=O)(OCC)N1CCC(CC1)=O | C8H13NO3
reactant | Water | 200 mL | O | H2O
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | Et2O | 200 mL | CCOCC | C4H10O
product | Ethyl 4-(methoxymethylene)piperidinecarboxylate | 52 g, 89% | COC=C1CCN(CC1)C(=O)OCC | C10H17NO3
